US05214037
To a solution of 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (800 mg : 1.06 mMol.) and D-(-)-mandelic acid (242 mg 1.59 mMol.) in dichloromethane (4 ml) is added dicyclohexylcarbodiimide (328 mg : 1.59 mMol.}, and the mixture is stirred under ice cooling for 1 hour. The reaction mixture is concentrated, diluted with ethyl acetate, and filtered to remove solid. The filtrate is washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by Lobar column chromatography (toluene : ethyl acetate=2:1) to give 7β-D-mandelamido-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem- 4-carboxylic acid diphenylmethyl ester (466 mg) as yellow foam. Yield : 50%.

reactant | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 1.06 mMol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
reactant | D-(-)-mandelic acid | 1.59 mMol, 242 mg | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 7β-D-mandelamido-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem- 4-carboxylic acid diphenylmethyl ester | 466 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC([C@H](O)C2=CC=CC=C2)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C50H41N5O5S3
